US05861421
46b) 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-[3-(5-methyl-[1,3,4]thiadiazol-2-yl)phenyl]ethynyl)cyclohexan-1-one
A stirred mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one (0.100 g, 0.32 mmol) and 2-(3-iodophenyl)-5-methyl-[1,3,4]thiadiazole (0.097 g, 0.32 mmol) in dry triethylamine (2.5 mL) was treated under argon with a mixture of tetrakis(triphenylphosphine)palladium (0.016 g, 0.013 mmol), cuprous iodide (0.0033 g, 0.017 mmol), and triphenylphosphine (a small crystal) at 70° C. for 1 h and at 25° C. for 15 h. The reaction mixture was concentrated in vacuo and the residue was partitioned between methylene chloride and cold dilute hydrochloric acid. The organic phase was chromatographed (silica, 10 to 20% ethyl acetate in methylene chloride) and the pure fractions were combined, concentrated in vacuo and dried at 50° C. in vacuo and the brittle resin ground to afford the titled compound as a yellow powder (0.128 g, 79%). Anal. (C29H3ON2)3S.H2O) calcd: C 69.02, H 6.39, N 5.55, found: C 68.91, H 6.21, N 5.35. 1H-NMR (400 MHz, CDCl3) δ 8.06 (t, J=1.6 Hz, 1H), 7.88 (d-t, J=1.4 Hz, J=8.1 Hz, 1H), 7.58 (d-d, J=1.2 Hz, J=9.0 Hz, 1H), 7.45 (t, J=7.8 Hz), 7.21 (d, J=2.2, 1H), 7.14 (dd, J=8.4 Hz, J=2.1 Hz, 1H), 6.88 (d, J=8.5, 1H), 4.82 (p, J=4.1 Hz, 1H), 3.86 (s, 3H), 3.04 (d-t, J=6.1 Hz, J=14.2, 2H), 2.84 (s, 3H), 2.50 (d,br, J=14.9, 2H), 2.42-2.32 (m, 2H), 2.27 (d-t, J=2.8 Hz, J=14.2 Hz, 2H), 2.00-1.5 (m, 12H with H2O).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one | 0.32 mmol, 0.100 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 2-(3-iodophenyl)-5-methyl-[1,3,4]thiadiazole | 0.32 mmol, 0.097 g | IC=1C=C(C=CC1)C=1SC(=NN1)C | C9H7IN2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 0.016 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-[3-(5-methyl-[1,3,4]thiadiazol-2-yl)phenyl]ethynyl)cyclohexan-1-one | 0.128 g, 79% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC(=CC=C1)C=1SC(=NN1)C | C29H30N2O3S
